US07816522B2
(33b) 5-fluoro-8-methoxychromane
After dissolving 4.78 g of 3-fluoro-2-(3-hydroxypropyl)-6-methoxyphenol and 9.4 g of triphenylphosphine in 70 ml of THF under a nitrogen atmosphere, the solution was cooled to −74° C. Next, 7 ml of DIAD was added to the reaction mixture, and the temperature was allowed to rise to room temperature prior to stirring overnight. The reaction mixture was concentrated, and the residue was purified by silica gel column chromatography (ethyl acetate-heptane) to give the title compound (3.6 g) as an oil.

reactant | 3-fluoro-2-(3-hydroxypropyl)-6-methoxyphenol | 4.78 g | FC=1C(=C(C(=CC1)OC)O)CCCO | C10H13FO3
reactant | triphenylphosphine | 9.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 7 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 70 ml | C1CCOC1 | C4H8O
product | 5-fluoro-8-methoxychromane | 3.6 g | FC1=C2CCCOC2=C(C=C1)OC | C10H11FO2
